US07732435B2
2-(4-Chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-ethanone
To a solution of 4-chlorophenylacetyl chloride (27.6 g, 0.15 mol) in 1,2-dichloroethane (200 ml), cooled to 0° C. in an ice bath, under nitrogen is added slowly AlCl3 (21.8 g, 0.16 mol). The reaction mixture is stirred at 0° C. for 20 min. 3-fluorophenol (12.2 g, 0.11 mol) is added, and the reaction mixture is allowed to warm to room temperature, then heated at 90° C. for 16 h. The reaction mixture is cooled to room temperature, then poured cautiously into aqueous ammonia solution (500 ml) with vigourous stirring. The mixture is diluted with CH2Cl2 (250 ml) and filtered through Celite. The organic phase is separated, washed with water, brine and dried (MgSO4). The solvent is removed in vacuo, and the crude product is purified by flash chromatography on silica gel using iso-hexane:ethyl acetate (10:1 to 4:1) as the eluent to give the title compound.

reactant | 4-chlorophenylacetyl chloride | 0.15 mol, 27.6 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | AlCl3 | 0.16 mol, 21.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-fluorophenol | 0.11 mol, 12.2 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | ammonia | 500 ml | N | H3N
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-ethanone | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)F)O | C14H10ClFO2
